US09315521B2
Lithium aluminum hydride (234 mg, 6.2 mmol) was stirred in anhydrous THF (30 mL) A solution of ethyl 4-chloro-2-ethylpyridine-3-carboxylate (878 mg, 4.1 mmol) in anhydrous THF (5 mL) was added at 0° C., and the reaction mixture was stirred at room temperature for 1.5 hours. The reaction was quenched with an aqueous solution of sodium hydroxide and extracted 5 times with ethyl acetate. The combined organic phase was washed with brine and dried over sodium sulfate. After evaporation of the solvent, (4-chloro-2-ethylpyridin-3-yl)methanol was obtained as an oil (601 mg, 85% yield) and used in the next step without further purification.

reactant | Lithium aluminum hydride | 6.2 mmol, 234 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 4-chloro-2-ethylpyridine-3-carboxylate | 4.1 mmol, 878 mg | ClC1=C(C(=NC=C1)CC)C(=O)OCC | C10H12ClNO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (4-chloro-2-ethylpyridin-3-yl)methanol | ClC1=C(C(=NC=C1)CC)CO | C8H10ClNO
